US06555577B1
The colourless gum (E)-3-(4′-tert-butyl-biphenyl-4-yl)-but-2-en-1-ol was prepared by DIBAL-H reduction of (E)-ethyl 3-(4′-tert-butyl-biphenyl-4-yl)-but-2-enoate by a procedure analogous to that described in example 52b.

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | (E)-ethyl 3-(4′-tert-butyl-biphenyl-4-yl)-but-2-enoate | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C22H26O2
product | (E)-3-(4′-tert-butyl-biphenyl-4-yl)-but-2-en-1-ol | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)/C(=C/CO)/C | C20H24O
